US04956371
N-[3-(3,4-Dimethoxyphenyl) propionyl]-2-(3-methylphenyl) ethylamine (E1).
A solution of 3-(3,4-dimethoxyphenyl) propionic acid (21 g, 0.10 mol) and 16.4 g (0.101 mol) of carbonyldiimidazole in dry THF was stirred for 1 h in a flask protected from moisture. To this solution was added 2-(3-methylphenyl)ethylamine (14.2 g, 0.105 mol) and stirring was continued for 50 min. The solvent was evaporated and the residue was triturated with water and collected by filtration. The crude amide was recrystallized from methanol-water to give 28.6 g (88%) of the title compound mp 100-103°.

reactant | 3-(3,4-dimethoxyphenyl) propionic acid | 0.10 mol, 21 g | COC=1C=C(C=CC1OC)CCC(=O)O | C11H14O4
reactant | carbonyldiimidazole | 0.101 mol, 16.4 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-(3-methylphenyl)ethylamine | 0.105 mol, 14.2 g | CC=1C=C(C=CC1)CCN | C9H13N
solvent | THF | C1CCOC1 | C4H8O
product | N-[3-(3,4-Dimethoxyphenyl) propionyl]-2-(3-methylphenyl) ethylamine | 28.6 g, 88% | COC=1C=C(C=CC1OC)CCC(=O)NCCC1=CC(=CC=C1)C | C20H25NO3
